* source FULLADD
.EXTERNAL OUTPUT CARRY_OUT
X_HALFADD_A?_U2C         N00071 N00061 N00507 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         N01594 N01630  1k  
X_HALFADD_B?_U4B         N00123 N00103 N00564 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
Q_Q1         N01594 N01248 0 Q2N2222
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N00061 IO_STM STIMULUS=Carry
V_V1         N01630 0 5Vdc
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N00103 IO_STM STIMULUS=X
X_U1A         N00507 N00564 CARRY_OUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R2         N00134 N01248  10k  
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND N00123 IO_STM STIMULUS=Y
