.subckt 7404  A Y
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0
U1 inv DPWR DGND
+	A   Y 
+	D_04 IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
.ends
*
.model Q2N2222	NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307
+		Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=7.306p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+		Tr=46.91n Tf=411.1p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
*		National	pid=19		case=TO18
*		88-09-07 bam	creation
*$
*
* RAD: PRERAD
* TEMP= -55
*
* THE FOLLOWING IS AN INDICATION OF SATURATED SWITCHING TIME ACCURACY FOR THIS
* MODEL:
*
* IC(NOMINAL) = 20MA   FB=10
*
*      MEASURED     SIMULATED
*TON   45NS         40NS
*TOFF  116NS        110NS
*
.subckt 7432  A B Y
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0
U1 or(2) DPWR DGND
+	A B   Y 
+	D_32 IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
.ends
*
.subckt 7408  A B Y
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0
U1 and(2) DPWR DGND
+	A B   Y 
+	D_08 IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
.ends
*
